US06284796B1
Preparation of 2-iso-propyloxybenzaldehyde
The title compound was prepared as in Example 257A but employing 2-iso-propyloxybromobenzene in lieu of 1-bromo-3-isopropoxybenzene. Purification on silica, gel with 10% ether/hexane afforded the title compound (2.3 g, 70%).

reactant | 2-iso-propyloxybromobenzene | C(C)(C)OC1=C(C=CC=C1)Br | C9H11BrO
reactant | 1-bromo-3-isopropoxybenzene | BrC1=CC(=CC=C1)OC(C)C | C9H11BrO
product | 2-iso-propyloxybenzaldehyde | 2.3 g, 70% | C(C)(C)OC1=C(C=O)C=CC=C1 | C10H12O2
